US05399559
4-Bromoveratrole (5.7 g, 26 mmol), 6-chloroindole-2-carboxylic acid morpholide (1.7 g, 6.5 mmol), potassium carbonate (1.7 g), copper(I) bromide (0.2 g) in a mixture of pyridine (2 ml) and nitrobenzene was stirred at 140° C. for 14 hours. After cooling to room temperature, the reaction mixture was applied onto a flash chromatography column (silica gel, 140 g), Elution with toluene, toluene/acetone [9:1] and toluene/acetone [8:2] (500 ml each) gave 6-chloro-1-(3,4-dimethoxyphenyl)indole-2-carboxylic acid morpholide as brown oil. Yield: 2.1 g (81% of theoretical) Rf : 0.54 (toluene/acetone, 7:3). The H-NMR spectra was consistent with the assigned structure.

reactant | 4-Bromoveratrole | 26 mmol, 5.7 g | BrC=1C=C(C(=CC1)OC)OC | C8H9BrO2
reactant | 6-chloroindole-2-carboxylic acid morpholide | 6.5 mmol, 1.7 g | ClC1=CC=C2C=C(NC2=C1)C(=O)N1CCOCC1 | C13H13ClN2O2
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper(I) bromide | 0.2 g | [Cu]Br
product | 6-chloro-1-(3,4-dimethoxyphenyl)indole-2-carboxylic acid morpholide | ClC1=CC=C2C=C(N(C2=C1)C1=CC(=C(C=C1)OC)OC)C(=O)N1CCOCC1 | C21H21ClN2O4
